US08030311B2
HATU (46.7 mg, 0.12 mmol) and triethylamine (29.5 μL, 0.21 mmol) are added to a solution of (R/S)-5-imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid (30 mg, 0.1 mmol) in DMF (2.5 mL). The reaction is stirred at rt for 2 min then 5-tert-butyl-2-phenyl-2H-pyrazol-3-ylamine (21.5 mg, 0.1 mmol) is added. After stirring at rt for 8 h, DMF is removed in vacuo. The residue is purified by reversed phase MPLC using ACN/Water as eluant and 5-imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid (5-tert-butyl-2-phenyl-2H-pyrazol-3-yl)-amide is obtained as a white solid. Title compound: ES-MS: 491.00 [M+H]+, tR=1.6 min (System 2).

reactant | HATU | 0.12 mmol, 46.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.21 mmol, 29.5 μL | C(C)N(CC)CC | C6H15N
reactant | (R/S)-5-imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid | 0.1 mmol, 30 mg | N1=CN(C2=NC=CC=C21)C=2C=C1C(CC(C1=CC2)C(=O)O)=O | C16H11N3O3
reactant | 5-tert-butyl-2-phenyl-2H-pyrazol-3-ylamine | 0.1 mmol, 21.5 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC=CC=C1)N | C13H17N3
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 5-imidazo[4,5-b]pyridine-3-yl-3-oxo-indan-1-carboxylic acid (5-tert-butyl-2-phenyl-2H-pyrazol-3-yl)-amide | C(C)(C)(C)C=1C=C(N(N1)C1=CC=CC=C1)NC(=O)C1CC(C2=CC(=CC=C12)N1C=NC=2C1=NC=CC2)=O | C29H26N6O2
